US06645970B2
2-(2-chloro-quinolin-4-yl)-acetic acid methyl ester (100 mg, 0.42 mmol) is suspended in 28% NH4OH (2.0 mL). The mixture is stirred at RT overnight. The solvent is evaporated to afford 2-(2-chloro-quinolin-4-yl)-acetamide as a solid.

reactant | 2-(2-chloro-quinolin-4-yl)-acetic acid methyl ester | 0.42 mmol, 100 mg | COC(CC1=CC(=NC2=CC=CC=C12)Cl)=O | C12H10ClNO2
reactant | NH4OH | 2.0 mL | [NH4+].[OH-]
product | 2-(2-chloro-quinolin-4-yl)-acetamide | ClC1=NC2=CC=CC=C2C(=C1)CC(=O)N | C11H9ClN2O
